US07214673B2
(S)-2-Isopropyl-10-{3-[2-(4-methoxy-phenyl)-ethyl]-piperazin-1-yl}-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By using a similar method of the method of Example 460, using 2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine(1.48 g, 5.7 mmol) and (S)-2-[2-(4-methoxy-phenyl)-ethyl]-piperazine (1.26 g, 5.7 mmol) to give 1.01 g of the title compound as a yellow solid: mass spectrum (ion spray): m/z=462 (M+1); Analysis for C26H31N5OS(0.3 H2O): calcd: C, 66.87; H, 6.82; N, 15.00; found: C, 66.58; H, 6.35; N, 14.96.

reactant | 2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 5.7 mmol, 1.48 g | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C13H14N4S
reactant | (S)-2-[2-(4-methoxy-phenyl)-ethyl]-piperazine | 5.7 mmol, 1.26 g | COC1=CC=C(C=C1)CC[C@@H]1NCCNC1 | C13H20N2O
product | (S)-2-Isopropyl-10-{3-[2-(4-methoxy-phenyl)-ethyl]-piperazin-1-yl}-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 1.01 g | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=C(C=C3)OC | C26H31N5OS
